US06255494B1
Preparation of 1-[3-[3-(piperidin-1-yl)propylcarbamoyl]-4-phenylbutyl]-2-[(4-chlorophenoxy)methyl]-4-methylbenzimidazole
To a stirring solution of 1-[3-carboxy-4-phenylbutyl]-2-[(4-chlorophenoxy)methyl]-4-methylbenzimidazole (1.0 g, 2.2 mmol) in N,N-dimethylformamide (75 ml) were added sequentially 1-amino-3-(piperidin-1-yl)propane (345 mg, 1.1 eq), 1-hydroxybenzotriazole (327 mg, 1.1 eq), and dicyclohexylcarbodiimide (500 mg, 1.1 eq). The resulting mixture was then stirred under a nitrogen atmosphere at room temperature for 64 hours. The reaction mixture was then filtered and the resulting filtrate was concentrated under reduced pressure. This residue was taken into ethyl acetate (200 ml) and washed once with water (200 ml), dried over potassium carbonate. The solvents were removed in vacuo to yield 1.35 grams of an orange foam.

reactant | 1-[3-carboxy-4-phenylbutyl]-2-[(4-chlorophenoxy)methyl]-4-methylbenzimidazole | 2.2 mmol, 1.0 g | C(=O)(O)C(CCN1C(=NC2=C1C=CC=C2C)COC2=CC=C(C=C2)Cl)CC2=CC=CC=C2 | C26H25ClN2O3
reactant | 1-amino-3-(piperidin-1-yl)propane | 345 mg, 1.1 eq | NCCCN1CCCCC1 | C8H18N2
reactant | 1-hydroxybenzotriazole | 327 mg, 1.1 eq | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | dicyclohexylcarbodiimide | 500 mg, 1.1 eq | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | N,N-dimethylformamide | 75 ml | CN(C=O)C | C3H7NO
product | 1-[3-[3-(piperidin-1-yl)propylcarbamoyl]-4-phenylbutyl]-2-[(4-chlorophenoxy)methyl]-4-methylbenzimidazole | 1.35 grams | N1(CCCCC1)CCCNC(=O)C(CCN1C(=NC2=C1C=CC=C2C)COC2=CC=C(C=C2)Cl)CC2=CC=CC=C2 | C34H41ClN4O2
